US04785004
A mixture of 14.4 g of 1-(2-nonylphenyl)-1-hexanol, 2 g of toluene-4-sulphonic acid monohydrate and 250 ml of toluene is heated under reflux for 3 hours using a water separator. After cooling, the reaction mixture is washed twice with 10% strength (w/v) sodium bicarbonate solution and twice with water. The organic phase is dried over sodium sulphate and concentrated by evaporation in vacuo, and the residue is purified by chromatography on silica gel using hexane as eluant. The desired 1-(2-nonylphenyl)-transhexene is obtained in the form of a pale yellow oil. IR (CH2Cl2): 2960, 2930, 2855, 1465, 970 cm-1.

reactant | 1-(2-nonylphenyl)-1-hexanol | 14.4 g | C(CCCCCCCC)C1=C(C=CC=C1)C(CCCCC)O | C21H36O
reactant | toluene-4-sulphonic acid monohydrate | 2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(2-nonylphenyl)-transhexene | C(CCCCCCCC)C1=C(C=CC=C1)\C=C\CCCC | C21H34
